US07320972B2
(4S)-4-Benzyl-3-[5-(4-fluorophenyl)-5-oxopentanoyl]-1,3-oxazolidin-2-one (13.87 g, 37.54 mmol) was dissolved in dichloromethane (40 mL). Into a separate flask were added borane-methyl sulfide complex (3.6 mL, ˜38 mmol), 1.0 M®-1-methyl-3,3-diphenyltetrahydro-3H-pyrrolo[1,2-c][1,3,2]oxazaborole in toluene (1.9 mL, 1.9 mmol) and dichloromethane (20 mL). This mixture was cooled to −5° C. (ice/methanol bath) and the ketone solution was added drop-wise via cannula over 5 min. The reaction was stirred at −5° C. for 5.5 h and then quenched by slow addition of methanol (9 mL), 5% hydrogen peroxide solution (30 mL) and 1 M aqueous sulfuric acid (20 mL) respectively. The reaction was poured into water (500 mL) and extracted with ethyl acetate (500 mL). The organic layer was washed with water (500 mL), 0.1 N hydrochloric acid (300 mL) and brine (300 mL), dried over sodium sulfate, filtered, and concentrated to afford (4S)-4-benzyl-3-[(5S)-5-(4-fluorophenyl)-5-hydroxypentanoyl]-1,3-oxazolidin-2-one, which was used in subsequent reactions without further purification; Rf 0.14 (1:2 ethyl acetate-hexane); 1H NMR (300 MHz, CDCl3) δ 7.37-7.24 (m, 5H), 7.19 (d, J=7.3 Hz, 2H), 7.02 (t, J=8.9 Hz, 2H), 4.72-4.61 (m, 2H), 4.21-4.13 (m, 2H), 3.27 (dd, J=13.2, 3.0 Hz, 1H), 2.99-2.94 (m, 2H), 2.74 (dd, J=13.2, 9.6 Hz, 1H), 2.27 (br s, 1H), 1.88-1.66 (m, 4H) ppm; MS [M−OH]+354.0.

reactant | (4S)-4-Benzyl-3-[5-(4-fluorophenyl)-5-oxopentanoyl]-1,3-oxazolidin-2-one | 37.54 mmol, 13.87 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(CCCC(=O)C1=CC=C(C=C1)F)=O | C21H20FNO4
reactant | 1-methyl-3,3-diphenyltetrahydro-3H-pyrrolo[1,2-c][1,3,2]oxazaborole | CB1OC(C2N1CCC2)(C2=CC=CC=C2)C2=CC=CC=C2 | C18H20BNO
reactant | toluene | 1.9 mmol, 1.9 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (4S)-4-benzyl-3-[(5S)-5-(4-fluorophenyl)-5-hydroxypentanoyl]-1,3-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(CCC[C@H](O)C1=CC=C(C=C1)F)=O | C21H22FNO4
